US09126906B2
Synthesis of 1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethenamine
A slurry of dimethylsulfone (85 g, 903 mmol) in THF (480 ml) was treated with a 1.6M solution of n-butyllithium in hexane (505 ml, 808 mmol) at 0-5° C. The resulting mixture was agitated for 1 hour then a solution of 3-ethoxy-4-methoxybenzonitrile (80 g, 451 mmol) in THF (240 ml) was added at 0-5° C. The mixture was agitated at 0-5° C. for 0.5 hour, warmed to 25-30° C. over 0.5 hour and then agitated for 1 hour. Water (1.4 L) was added at 25-30° C. and the reaction mass was agitated overnight at room temperature (20-30° C.). The solid was filtered and subsequently washed with a 2:1 mixture of water:THF (200 ml), water (200 ml) and heptane (2×200 ml). The solid was dried under reduced pressure at 40-45° C. to provide the product as a white solid (102 g, 83% yield); 1H NMR (DMSO-d6) δ 1.34 (t, J=7.0 Hz, 3H), 2.99 (s, 3H), 3.80 (s, 3H), 4.08 (q, J=7.0 Hz, 2H), 5.03 (s, 1H), 6.82 (s, 2H), 7.01 (d, J=8.5 Hz, 1H), 7.09-7.22 (m, 2H).

reactant | dimethylsulfone | 903 mmol, 85 g | CS(=O)(=O)C | C2H6O2S
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 808 mmol, 505 ml | CCCCCC | C6H14
reactant | 3-ethoxy-4-methoxybenzonitrile | 451 mmol, 80 g | C(C)OC=1C=C(C#N)C=CC1OC | C10H11NO2
solvent | THF | 480 ml | C1CCOC1 | C4H8O
solvent | THF | 240 ml | C1CCOC1 | C4H8O
solvent | Water | 1.4 L | O | H2O
product | 1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethenamine | 102 g, 83% yield | C(C)OC=1C=C(C=CC1OC)C(=CS(=O)(=O)C)N | C12H17NO4S
